US08258253B2
(3,5-Di-tert-butyl-4-hydroxy-benzyl)-phosphinic acid (118)
17 grams (50 mmol) of (3,5-di-tert-butyl-4-hydroxy-benzyl)-phosphinic acid butyl ester in a mixture of 100 mL of 2.5 N sodium hydroxide solution and 10 mL of isopropanol is heated at 100° C. for 1 hour. The cooled reaction mixture is poured into a mixture of 25 mL of concentrated hydrochloric acid and 200 mL of ice. The product is extracted into 400 mL of chloroform and the chloroform layer is washed with 200 mL of water and then dried over sodium sulfate.

reactant | (3,5-di-tert-butyl-4-hydroxy-benzyl)-phosphinic acid butyl ester | 50 mmol, 17 grams | C(CCC)OP(=O)CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C19H33O3P
reactant | hydrochloric acid | 25 mL | Cl | ClH
solvent | sodium hydroxide | 2.5 N, 100 mL | [OH-].[Na+]
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | (3,5-Di-tert-butyl-4-hydroxy-benzyl)-phosphinic acid | C(C)(C)(C)C=1C=C(CP(O)=O)C=C(C1O)C(C)(C)C | C15H25O3P
